US08614327B2
A flask charged with 1-(2-tert-butyl-5-nitrophenyl)pyrrolidine (150 mg, 0.60 mmol) and Pd/C (15 mg, 0.14 mmol) was flushed under N2 followed by evacuating under vacuum. Methanol (2 mL) was added under inert atmosphere followed by evacuating under vacuum. The reaction mixture was stirred overnight under an atmosphere of H2. The reaction mixture was filtered and the solvent was evaporated to give 4-tert-butyl-3-(pyrrolidin-1-yl)aniline (119 mg, 90%). LC/MS: m/z 218.5 (M+H)+ at 2 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 1-(2-tert-butyl-5-nitrophenyl)pyrrolidine | 0.60 mmol, 150 mg | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])N1CCCC1 | C14H20N2O2
catalyst | Pd/C | 0.14 mmol, 15 mg | [Pd] | Pd
product | 4-tert-butyl-3-(pyrrolidin-1-yl)aniline | 119 mg, 90% | C(C)(C)(C)C1=C(C=C(N)C=C1)N1CCCC1 | C14H22N2
